US05663053
Methyl 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)-5-heptynoate
1,4,5-Triphenylimidazol-2-one was treated with methyl 7-bromo-5-heptynoate and potassium carbonate in butanone to give after work-up the title compound, m.p. 133°-134° C. , Found: C, 76.9; H, 5.8; N, 6.0%; C29H26N2O3 requires: C 77.3; H, 5.8; N, 6.2%

reactant | 1,4,5-Triphenylimidazol-2-one | C1(=CC=CC=C1)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16N2O
reactant | methyl 7-bromo-5-heptynoate | BrCC#CCCCC(=O)OC | C8H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | CC(CC)=O | C4H8O
product | Methyl 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)-5-heptynoate | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CC#CCCCC(=O)OC)=O | C29H26N2O3
